US08420655B2
To a solution of 2-tert-butoxycarbonylaminocarbonyl-5-fluoro-benzoic acid methyl ester (4.5 g, 15.13 mmol) plus regioisomer in CH2Cl2 (25 mL) is added TFA (2.0 mL, 25.96 mmol). The reaction mixture is stirred at room temperature for 3 hours and concentrated under reduced pressure to afford 5-fluoro-phthalamic acid methyl ester plus regioisomer (2.24 g, 75%).

reactant | 2-tert-butoxycarbonylaminocarbonyl-5-fluoro-benzoic acid methyl ester | 15.13 mmol, 4.5 g | COC(C1=C(C=CC(=C1)F)C(=O)NC(=O)OC(C)(C)C)=O | C14H16FNO5
reactant | TFA | 25.96 mmol, 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 5-fluoro-phthalamic acid methyl ester | COC(C=1C(C(=O)N)=CC=C(C1)F)=O | C9H8FNO3
